US08937150B2
4-fluoro-4-phenylpiperidine
Hydrochloric acid (4 M in dioxane, 20 mL, 80 mmol) was added to a solution of tert-butyl 4-fluoro-4-phenylpiperidine-1-carboxylate (8.27 g, 29.6 mmol) in dioxane (10 mL). The reaction was stirred at ambient temperature for 4 hours. The reaction was concentrated to an oil. Ether was added, and the resulting solid was sonicated and then stirred vigorously overnight to provide a tan solid. The solid was filtered, rinsed with ether and dried under vacuum at 60° C. for 3 hours to provide 5.56 g (87%) of the titled product. MS (DCI) m/z 180 (M+H)+.

reactant | Hydrochloric acid | 80 mmol, 4 M, 20 mL | Cl | ClH
reactant | tert-butyl 4-fluoro-4-phenylpiperidine-1-carboxylate | 29.6 mmol, 8.27 g | FC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H22FNO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-fluoro-4-phenylpiperidine | 5.56 g, 87% | FC1(CCNCC1)C1=CC=CC=C1 | C11H14FN
